US04868313
2-Methylpropyl 3-carbamoylmethyl-Beta-hydroxy-2-(1-methylethyl)-4-oxo-1-imidazolidinebutanoate
A solution of 1.2 g (6.4 mmol) of 2-(1-methylethyl)-5-oxo-1-imidazolidineacetamide and 2 g of 2-methylpropyl 3,4-epoxybutanoate in 40 ml of anhydrous pentanol was stirred at 80° C. for 48 hours. The solvent was evaporated under reduced pressure. The residue was dissolved in 15 ml of 15% HCl, washed with 2×25 ml dichloromethane, basified with sodium carbonate with sodium carbonate and extracted with 3×35 ml dichloromethane. The organic layer was dried and evaporated to afford 1.08 g of the title compound as a colorless oil (mixture of two diastereoisomers, Rf 0.27 and 0.32 respectively (dichloromethane/methanol 9:1; silica gel plates). Mass spectrum (E.I., 70 eV, 1.5 mA), m/z=300 (M+ --C3H7). IR spectrum (neat): 3400, 3200, 1730 and 1690 cm-1.

reactant | 2-(1-methylethyl)-5-oxo-1-imidazolidineacetamide | 6.4 mmol, 1.2 g | CC(C)C1N(C(CN1)=O)CC(=O)N | C8H15N3O2
reactant | 2-methylpropyl 3,4-epoxybutanoate | 2 g | O1C(CC(=O)OCC(C)C)C1 | C8H14O3
solvent | pentanol | 40 ml | C(CCCC)O | C5H12O
product | 2-Methylpropyl 3-carbamoylmethyl-Beta-hydroxy-2-(1-methylethyl)-4-oxo-1-imidazolidinebutanoate | 1.08 g | C(N)(=O)CN1C(N(CC1=O)CC(CC(=O)OCC(C)C)O)C(C)C | C16H29N3O5
